US06538152B1
To a solution of ethyl 2-(4-acetyl-2-methoxymethoxyphenoxy)acetate (1.51 g) in tetrahydrofuran (30 ml) was added pyrrolidone hydrotribromide (2.92 g), and the mixture was stirred for 21 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/diethyl ether/dichloromethane=3/2/2) and subsequent crystallization from hexane and diethyl ether (1/1) gave ethyl 2-[4-(2-bromoacetyl)-2-hydroxyphenoxy]acetate (780 mg).

reactant | ethyl 2-(4-acetyl-2-methoxymethoxyphenoxy)acetate | 1.51 g | C(C)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)OCOC | C14H18O6
reactant | pyrrolidone hydrotribromide | 2.92 g | C1CC(=O)NC1.Br[Br-]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 2-[4-(2-bromoacetyl)-2-hydroxyphenoxy]acetate | 780 mg | BrCC(=O)C1=CC(=C(OCC(=O)OCC)C=C1)O | C12H13BrO5
